US05589476
12.1.1. (S)-9-Amino-3-methyl-3,4-dihydro-1H-1,4-benzodiazepine-2,5-dione
6 g (0.022 mol) of (S)-7-chloro-3-methyl-9-nitro-3,4-dihydro-1H-1,4-benzodiazepine-2,5-dione, 200 ml of water, 200 ml of acetic acid and 0.5 g of 5% palladium-on-charcoal are placed in a Parr bottle. The catalytic hydrogenation is carried out under 40 psi at 50° C. The catalyst is filtered, is washed with an acetic acid/water (50/50) mixture and the filtrate is concentrated to dryness. It is taken up in water and the pH adjusted to alkaline with a sodium carbonate solution. The mixture is left stirring for 15 minutes, filtration is carried out, drying is carried out and the solvent evaporated to dryness. 4 g of product are obtained.

reactant | (S)-7-chloro-3-methyl-9-nitro-3,4-dihydro-1H-1,4-benzodiazepine-2,5-dione | 0.022 mol, 6 g | ClC=1C=C(C2=C(C(N[C@H](C(N2)=O)C)=O)C1)[N+](=O)[O-] | C10H8ClN3O4
reactant | water | 200 ml | O | H2O
catalyst | palladium-on-charcoal | 0.5 g | [Pd] | Pd
solvent | acetic acid | 200 ml | C(C)(=O)O | C2H4O2
product | (S)-9-Amino-3-methyl-3,4-dihydro-1H-1,4-benzodiazepine-2,5-dione | 4 g | NC1=CC=CC=2C(N[C@H](C(NC21)=O)C)=O | C10H11N3O2
